US05470862
To a mixture of 5-formylpyrazole-3-carboxylic acid ethyl ester (5.42 g) and anhydrous dimethyl formamide (80 ml), 1.41 g of 60% sodium hydride oil suspension were added at 0° C. After 30 minutes, 6.30 g of 2-(1-bromoethyl)pyridine were added at 0° C. The mixture was stirred overnight at room temperature and 120 ml of water was added thereto. The mixture was extracted with ethyl acetate (3×300 ml). The combined organic solution was dried over sodium sulfate and concentrated. The residue was chromatographed (silica gel, Hex/EtOAc 2/1) to afford 4.0 g of 3-formyl-1-(1-(2-pyridinyl)ethyl)pyrazole-5-carboxylic acid ethyl ester as a viscous oil. NMR: 1.33 (t, 3H), 2.01 (d, 3H), 4.29 (m, 2H), 6.73 (q, 1H), 7.40 (s, 1H, 4-pyrazolyl H) 7.06, 7.19, 7.63, 8.57 (4 m, 4H, pyridyl H's), 10.04 (s, 1H, CHO). Also obtained was 535 mg of 5-formyl-1-(1-(2-pyridyl)ethyl)pyrazole-3-carboxylic acid ethyl ester as a viscous oil. NMR: 1.41 (t, 3H), 2.05 (d, 3H), 4.42 (q, 2H), 5.51 (q, 1H), 7.46 (s, 1H, 4-pyrazolyl H), 7.07, 7.17, 7.61, 8.54 (4 m, 4H, pyridyl H's), 9.88 (s, 1H, CHO).

reactant | 5-formylpyrazole-3-carboxylic acid ethyl ester | 5.42 g | C(C)OC(=O)C1=NNC(=C1)C=O | C7H8N2O3
reactant | dimethyl formamide | 80 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 1.41 g | [H-].[Na+]
reactant | 2-(1-bromoethyl)pyridine | 6.30 g | BrC(C)C1=NC=CC=C1 | C7H8BrN
solvent | water | 120 ml | O | H2O
product | 3-formyl-1-(1-(2-pyridinyl)ethyl)pyrazole-5-carboxylic acid ethyl ester | 4.0 g | C(C)OC(=O)C1=CC(=NN1C(C)C1=NC=CC=C1)C=O | C14H15N3O3
